US04555572
To a solution of 24.2 g of sodium p-nitrophenoxide in 60 ml of DMF was added 23.5 g of 4-methoxybenzyl chloride. The precipitate was collected after 24 hours, washed with water, and recrystallized from chloroformcyclohexane, providing 1-methoxy-4-[(4-nitrophenoxy)methyl]benzene, mp 122°-124° C.

reactant | sodium p-nitrophenoxide | 24.2 g | [N+](=O)([O-])C1=CC=C([O-])C=C1.[Na+]
reactant | 4-methoxybenzyl chloride | 23.5 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 1-methoxy-4-[(4-nitrophenoxy)methyl]benzene | COC1=CC=C(C=C1)COC1=CC=C(C=C1)[N+](=O)[O-] | C14H13NO4
